US04032676
N-(2,3,4,5-tetrahydroxy-pentyl)-L-(+)-glutamic acid
The product was made from D-ribose and L-(+)-glutamic acid using Raney nickel as a catalyst under the conditions of the above examples. A resin-like product was obtained with a RF -value of 0.80 (determined as indicated under Example M).

reactant | D-ribose | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
reactant | L-(+)-glutamic acid | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
catalyst | Raney nickel | [Ni] | Ni
product | N-(2,3,4,5-tetrahydroxy-pentyl)-L-(+)-glutamic acid | OC(CN[C@@H](CCC(=O)O)C(=O)O)C(C(CO)O)O | C10H19NO8
